US07763657B2
Step 1: 3-[4-tert-Butyl-2-(tetrahydropyran-4-yloxy)phenyl]propionic acid methyl ester
3-[4-tert-Butyl-2-(tetrahydropyran-4-yloxy)phenyl]acrylic acid methyl ester (14.4 mg, 0.045 mmole) and 10 wt. % palladium were added in MeOH. The reaction mixture was stirred overnight under hydrogen atmosphere. The reaction mixture was filtered with celite pad. The filterate was concentrated in vacuo and purified with column chromatography to yield a syrup (14.1 mg, 97.3%).

reactant | 3-[4-tert-Butyl-2-(tetrahydropyran-4-yloxy)phenyl]acrylic acid methyl ester | 0.045 mmole, 14.4 mg | COC(C=CC1=C(C=C(C=C1)C(C)(C)C)OC1CCOCC1)=O | C19H26O4
solvent | MeOH | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 3-[4-tert-Butyl-2-(tetrahydropyran-4-yloxy)phenyl]propionic acid methyl ester | 14.1 mg, 97.3% | COC(CCC1=C(C=C(C=C1)C(C)(C)C)OC1CCOCC1)=O | C19H28O4
